US07217723B2
5-Acetylthiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide
A solution of 5-chlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide (345 mg), (1-ethoxyvinyl)-tributyltin (448 mg), cesium fluoride (346 mg), tris-hydroxymethyl-aminomethanedibenzylidene acetone-dipalladium(16 mg) and trit-butylphosphine (1.3 mg) in 1,4-dioxane (4 ml) was heated at 100° C. for 4 hours. After the reaction solution was cooled to room temperature, the solution was diluted with ethyl acetate, the resulting insoluble matter was removed by filtration, and washed with ethyl acetate. The filtrate was evaporated in vacuo and crude enol ether was obtained. Enol ether was dissolved in tetrahydrofuran (3 mL)-1N hydrochloric acid (3 mL), and the solution was stirred at room temperature for 30 minutes. After the solution was diluted with water, the solution was extracted with ethyl acetate, and washed with saturated sodium chloride water. After drying with anhydrous sodium sulfate, the residue that was obtained upon removing the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (154 mg) was obtained as a yellow oily substance.

reactant | 5-chlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 345 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)Cl)C | C13H13ClFNO2S2
reactant | (1-ethoxyvinyl)-tributyltin | 448 mg | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | cesium fluoride | 346 mg | [F-].[Cs+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | -1N, 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | trit-butylphosphine | 1.3 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 5-Acetylthiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 154 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C(C)=O)C | C15H16FNO3S2
